US05981754
(2-Chloro-4-hydroxyphenyl)acetic acid
A solution of 1.6 g (8 mmol) of (2-chloro-4-methoxyphenyl)acetic acid, prepared according to Preparation 3, in 13 ml of hydrobromic acid (in 48% aqueous solution) is refluxed for two hours. After cooling, ammonium hydroxide is added until the pH is basic, and the mixture is extracted with methylene chloride. The water is evaporated from the aqueous phase and the residue is washed several times with ethanol to give the title compound.

reactant | (2-chloro-4-methoxyphenyl)acetic acid | 8 mmol, 1.6 g | ClC1=C(C=CC(=C1)OC)CC(=O)O | C9H9ClO3
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | hydrobromic acid | 13 ml | Br | BrH
product | (2-Chloro-4-hydroxyphenyl)acetic acid | ClC1=C(C=CC(=C1)O)CC(=O)O | C8H7ClO3
